US04594342
A mixture of 5.96 g of (±)-cis-2-(4-methylphenyl)-3-hydroxy-8-methyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one, 5.89 g of 2-(N-benzyloxycarbonyl-N-methylamino)ethyl chloride, 1.68 g of potassium hydroxide and 85 ml of dimethylsulfoxide is treated in the same manner as described in Example 1-(1). The crude product thus obtained is purified by silica gel chromatography (solvent, benzene:ethyl acetate=9:1). 7.89 g of (±)-cis-2-(4-methylphenyl)-3-hydroxy-5-[2-(N-benzyloxycarbonyl-N-methylamino)ethyl]-8-methyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one are obtained as an oil.

reactant | (±)-cis-2-(4-methylphenyl)-3-hydroxy-8-methyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 5.96 g | CC1=CC=C(C=C1)[C@@H]1SC2=C(NC([C@@H]1O)=O)C=CC(=C2)C | C17H17NO2S
reactant | 2-(N-benzyloxycarbonyl-N-methylamino)ethyl chloride | 5.89 g | C(C1=CC=CC=C1)OC(=O)N(C)CCCl | C11H14ClNO2
reactant | potassium hydroxide | 1.68 g | [OH-].[K+]
solvent | dimethylsulfoxide | 85 ml | CS(=O)C | C2H6OS
product | (±)-cis-2-(4-methylphenyl)-3-hydroxy-5-[2-(N-benzyloxycarbonyl-N-methylamino)ethyl]-8-methyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 7.89 g | CC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCN(C)C(=O)OCC1=CC=CC=C1)C=CC(=C2)C | C28H30N2O4S
